US08957073B2
To a mixture of 1H-benzoimidazole-2-carboxylic acid (124 mg, 0.76 mmol) in DMF (5 mL) was added TEA (152 mg, 1.5 mmol) and HATU (347 mg, 0.92 mmol). The reaction mixture was stirred for 5 min and 2-azetidin-3-yl-3-phenyl-pyridine hydrochloride (100 mg, 0.76 mmol) was added. The reaction mixture was stirred at RT overnight. The mixture was diluted with water (10 mL), and extracted with EtOAc (2×20 mL). The combined organic extracts were washed with water (5 mL) and brine (5 mL), dried over Na2SO4, and filtered. The filtrate was evaporated in vacuo and the residue was purified by column chromatography to give (1H-benzoimidazol-2-yl)-[3-(3-phenyl-pyridin-2-yl)-azetidin-1-yl]-methanone (100 mg, 0.28 mmol, 59% yield) as a light yellow solid.

reactant | 1H-benzoimidazole-2-carboxylic acid | 0.76 mmol, 124 mg | N1C(=NC2=C1C=CC=C2)C(=O)O | C8H6N2O2
reactant | HATU | 0.92 mmol, 347 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-azetidin-3-yl-3-phenyl-pyridine hydrochloride | 0.76 mmol, 100 mg | Cl.N1CC(C1)C1=NC=CC=C1C1=CC=CC=C1
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
product | (1H-benzoimidazol-2-yl)-[3-(3-phenyl-pyridin-2-yl)-azetidin-1-yl]-methanone | 0.28 mmol, 100 mg, 59% yield | N1C(=NC2=C1C=CC=C2)C(=O)N2CC(C2)C2=NC=CC=C2C2=CC=CC=C2 | C22H18N4O
